US06229011B1
Preparation of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine
To a suspension of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester (166 mmol, 86.2 g) in ethanol (350 mL) was added aqueous 1.0 N sodium hydroxide (250 mL) at room temperature. The mixture was heated to 40-45° C. and the resulting clear solution was stirred for 3-4 h. Then, the mixture was cooled to room temperature and the ethanol was removed on a rotary evaporator. The residue was diluted with 100 mL of water. The neutral impurities was extracted into ether (2×100 mL) and the basic aqueous layer was neutralized with 1 N HCl. The precipitated solid was collected by filtration and the solid cake was washed with water (1 L) and dried at air over weekend. The crude solid was dissolved in hot acetontile (2 L) and the resulting solution was stored in the refrigerator for 15 h. The white crystalline solids were collected by filtration and washed with cold acetonitrile (100 mL). After air drying, 79.76 g (95%) of a white solid, mp 212-215° C. was obtained. 1H NMR, DMSO-d6 (400 MHz) δ10.66 (s, 1H), 8.85 (d, 1H, J=19 Hz), 7.47-7.6 (m, 5H), 7.15-7.29 (m, 5H), 4.58-4.68 (m, 1H), 3.12 (dd, 1H, J=17, 13 Hz), 2.87 (dd, 1H, J=17, 11 Hz), 2.09 (s, 3H). HR MS: Obs. mass, 505.0483. Calcd. mass. 505.0488 (M+).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester | 166 mmol, 86.2 g | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O4
reactant | sodium hydroxide | 1.0 N, 250 mL | [OH-].[Na+]
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine | 79.76 g, 95% | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2=C(C=CC=C2C)Cl)C(=O)O)C=C1 | C24H19Cl3N2O4
